US09255089B2
To a mixture of N1-cyclopropyl-4-(3,5-dimethylisoxazol-4-yl)-6-iodobenzene-1,2-diamine (170 mg, 0.46 mmol, 1 equiv.) in a pressure tube was added THF (5 mL) and CDI (223 mg, 1.38 mmol, 3 equiv.). The mixture was heated to 120° C. for 30 minutes in a microwave reactor. The reaction was concentrated in vacuo and purified by HPLC to provide 1-cyclopropyl-5-(3,5-dimethylisoxazol-4-yl)-7-iodo-1H-benzo[d]imidazol-2(3H)-one LCMS (m/z+1) 396.3.

reactant | N1-cyclopropyl-4-(3,5-dimethylisoxazol-4-yl)-6-iodobenzene-1,2-diamine | 0.46 mmol, 170 mg, 1 equiv. | C1(CC1)NC=1C(=CC(=CC1I)C=1C(=NOC1C)C)N | C14H16IN3O
reactant | CDI | 1.38 mmol, 223 mg, 3 equiv. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-cyclopropyl-5-(3,5-dimethylisoxazol-4-yl)-7-iodo-1H-benzo[d]imidazol-2(3H)-one | C1(CC1)N1C(NC2=C1C(=CC(=C2)C=2C(=NOC2C)C)I)=O | C15H14IN3O2
